US07692005B2
A solution of 2-(4-nitro-phenoxymethyl)-oxirane (9.75 g, 50 mmol) in absolute EtOH (100 mL) was heated at 70° C. until 2-(4-nitro-phenoxymethyl)-oxirane is dissolved then the solution was allowed to cool to room temperature. Subsequently the room temperature solution was treated with diethylamine (5.2 mL, 1.0 equiv.) in one portion. The reaction mixture is stirred at room temperature for 15 min during which time starting material (oxirane) began to precipitate out of solution. The reaction mixture was heated to 50° C. and an additional amount of diethylamine (2.6 mL) was added to achieve complete dissolution of starting oxirane. The reaction mixture was heated for an additional 5 h at 55° C. at which point thin layer chromatography (9:1, chloroform: methanol) indicated complete consumption of the starting oxirane. The reaction mixture was cooled to room temperature and concentrated in vacuo. The oily light brown residue obtained after evaporation, was purified by flash silica gel chromatography, (CHCl3 to 1:9, MeOH:CHCl3 gradient eluant) to give the 1-diethylamino-3-(4-nitro-phenoxy)-propan-2-ol as a yellow oil (11.9 g, 89%).

reactant | 2-(4-nitro-phenoxymethyl)-oxirane | 50 mmol, 9.75 g | [N+](=O)([O-])C1=CC=C(OCC2OC2)C=C1 | C9H9NO4
reactant | diethylamine | 5.2 mL, 1.0 equiv. | C(C)NCC | C4H11N
reactant | oxirane | O1CC1 | C2H4O
solvent | EtOH | 100 mL | CCO | C2H6O
product | 1-diethylamino-3-(4-nitro-phenoxy)-propan-2-ol | 11.9 g, 89% | C(C)N(CC(COC1=CC=C(C=C1)[N+](=O)[O-])O)CC | C13H20N2O4
